US04259349
EXAMPLE 1--Preparation of 1:1 cis/trans 2-bromo-6-chlorobenzyl 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropane carboxylate
1 cis/trans 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropane carboxylic acid (2.3 g), 2-bromo-6-chlorobenzylbromide (2.85 g) and potassium carbonate (1.6 g) were stirred together in acetone (30 ml) under reflux for 6 hours. The reaction mixture was cooled, diluted with water, and extracted three times with 50 ml portions of diethyl ether. The combined ether extracts were washed with water and with aqueous sodium bicarbonate solution (three times), dried over magnesium sulphate and evaporated to give the orange title product (4. g, 98%) m.p. 61°-67° C.

reactant | trans 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropane carboxylic acid | 2.3 g | ClC(=C[C@H]1[C@@H](C1(C)C)C(=O)O)Cl | C8H10Cl2O2
reactant | 2-bromo-6-chlorobenzylbromide | 2.85 g | BrC1=C(CBr)C(=CC=C1)Cl | C7H5Br2Cl
reactant | potassium carbonate | 1.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | trans 2-bromo-6-chlorobenzyl 2-(2,2-dichlorovinyl)-3,3-dimethylcyclopropane carboxylate | 98% | ClC(=C[C@H]1[C@@H](C1(C)C)C(=O)OCC1=C(C=CC=C1Cl)Br)Cl | C15H14BrCl3O2
